US07192974B2
N-methyl-caprolactam (15 g, 118 mmol) was combined with barium hydroxide (10.1 g, 72 mmol) and water (150 ml). The suspension was warmed to 110° C. for 18 hours then cooled over an ice bath. Gaseous carbon dioxide was bubbled through the solution for 20 minutes. The suspension was filtered through a celite pad and the filtrate was concentrated to dryness. The residue was triturated with acetonitrile, collected, rinsed with ether and dried in vacuo to yield 6-(methylamino)hexanoic acid as a white solid (10.7 g). 6-(Methylamino)hexanoic acid (5 g, 34.5 mmol), and potassium carbonate (18 g, 130 mmol) were suspended in water (50 ml) and dioxane (25 ml) then cooled to 0° C. Methyl chloroformate (13 ml, 168 mmol) was added over 1 minute, then the mixture was stirred and allowed to warm slowly to room temperature for 16 hours. Conc. HCl (20 ml) was added then the mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, evaporated and dried in vacuo to give 6-[(methoxycarbonyl)(methyl)amino]hexanoic acid as a thick clear oil (5.7 g).

reactant | N-methyl-caprolactam | 118 mmol, 15 g | CN1C(CCCCC1)=O | C7H13NO
reactant | barium hydroxide | 72 mmol, 10.1 g | [OH-].[Ba+2].[OH-]
solvent | water | 150 ml | O | H2O
product | 6-(methylamino)hexanoic acid | 10.7 g | CNCCCCCC(=O)O | C7H15NO2
